US07601844B2
Methyl 2-(aminomethyl)benzoate-hydrochloride (500 mg, 2.48 mmol, 1 eq) was dissolved in 10 mL of THF at 25° C. under nitrogen. Triethylamine (0.35 mL, 4.96 mmol, 2 eq) was added followed by BOC anhydride (541 mg, 2.48 mmol, 1 eq). The reaction was stirred for 20 hours. After this time, saturated NH4Cl (10 mL) was added and the product was extracted 3 times with methylene chloride. The organic extracts were combined, dried over sodium sulfate and stripped to give methyl 2-((tert-butoxycarbonyl)aminomethyl)benzoate (650 mg) as a light-colored oil.

reactant | Methyl 2-(aminomethyl)benzoate-hydrochloride | 2.48 mmol, 500 mg, 1 eq | Cl.NCC1=C(C(=O)OC)C=CC=C1
reactant | Triethylamine | 4.96 mmol, 0.35 mL, 2 eq | C(C)N(CC)CC | C6H15N
reactant | BOC anhydride | 2.48 mmol, 541 mg, 1 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 2-((tert-butoxycarbonyl)aminomethyl)benzoate | 650 mg | C(C)(C)(C)OC(=O)NCC1=C(C(=O)OC)C=CC=C1 | C14H19NO4
